US08349849B2
tert-Butyl 1,3-dihydroxy-2-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)propan-2-ylcarbamate
2-Amino-2-(6-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propane-1,3-diol (27.2 g, 0.0573 mol) was dissolved in tetrahydrofuran (180 mL, 2.2 mol) and water (250 mL, 14 mol). To the solution was added portionwise sodium bicarbonate (48.1 g, 0.573 mol) (pH ˜8). The solution was cooled with an ice bath. Di-tert-butyldicarbonate (25.0 g, 0.115 mol) was added and the mixture was brought to r.t. overnight. Di-tert-butyldicarbonate (5.00 g, 0.0229 mol) was added and the mixture was stirred for 24 hours. The mixture was extracted with EtOAc (2×100 mL), brine (2×), dried over anhydrous sodium sulfate, filtered, concentrated in rotavapor to give a dark brown oily residue. Et2O (150 mL) was added. The resulted solid was collected by filtration and washed with Et2O, dried in air. The filtrate was concentrated in rotavapor and subject to chromatography purification with DCM:MeOH (100:0 to 96:4) to give a solid product (1.03 g, 5%). 1H NMR (MeOD) δ: 6.76-6.95 (m, 1H), 6.40-6.62 (m, 2H), 3.64-3.92 (m, 4H), 2.53-2.89 (m, 4H), 2.16-2.40 (m, 1H), 1.84-2.11 (m, 2H), 1.45 (s, 9H). MS (M+1): 338.0.

reactant | 2-Amino-2-(6-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propane-1,3-diol | 0.0573 mol, 27.2 g | NC(CO)(CO)C1CC2=CC=C(C=C2CC1)O | C13H19NO3
reactant | tetrahydrofuran | 2.2 mol, 180 mL | O1CCCC1 | C4H8O
reactant | water | 14 mol, 250 mL | O | H2O
reactant | sodium bicarbonate | 0.573 mol, 48.1 g, pH ˜8 | C([O-])(O)=O.[Na+]
reactant | Di-tert-butyldicarbonate | 0.115 mol, 25.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Di-tert-butyldicarbonate | 0.0229 mol, 5.00 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | tert-Butyl 1,3-dihydroxy-2-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)propan-2-ylcarbamate | 1.03 g, 5% | OCC(CO)(C1CC2=CC=C(C=C2CC1)O)NC(OC(C)(C)C)=O | C18H27NO5
